US03983124
A mixture of 6.15 g (0.016 mole) of 2,7--bis(piperidinomethyl)fluorene-9-ol, 12.1 ml of 10% hydrochloric acid, sufficient deionized water to bring the total volume to 150 ml, and 3.0 g of 10% palladium on charcoal catalyst is placed in a Paar hydrogenation apparatus and hydrogenated at room temperature for a period of 2 hours and 45 minutes. The resulting mixture is filtered and sufficient 20% sodium hydroxide solution is added to render the mixture basic to phenolphthalein indicator. The reaction mixture is extracted four times with chloroform, the extracts combined, washed twice with deionized water, treated with charcoal, filtered, and the major portion of the solvent removed at atmospheric pressure. The residue is recrystallized twice from methanol and once again from acetone yielding 2,7-bis(piperidinomethyl)fluorene having a m.p. 135°-6°C, λmax0.1N HCl 270, and E1cm1% 807.

reactant | 2,7--bis(piperidinomethyl)fluorene-9-ol | 0.016 mole, 6.15 g | N1(CCCCC1)CC1=CC=2C(C3=CC(=CC=C3C2C=C1)CN1CCCCC1)O | C25H32N2O
reactant | hydrochloric acid | 12.1 ml | Cl | ClH
catalyst | palladium on charcoal | 3.0 g | [Pd] | Pd
solvent | water | O | H2O
product | 2,7-bis(piperidinomethyl)fluorene | N1(CCCCC1)CC1=CC=2CC3=CC(=CC=C3C2C=C1)CN1CCCCC1 | C25H32N2
